US04904680
20.22 g (0.20 mole) of triethylamine were added dropwise to a suspension of 26.62 g (0.20 mole) of (4R)-thiazolidine-4-carboxylic acid in 200 ml of a 1:1 by volume mixture of water and dioxane, whilst cooling at 5° C., and then a solution of 48.00 g (0.22 mole) of di-t-butoxy dicarbonate in 10 ml of dioxane was added dropwise. After completion of the addition, the mixture was stirred at a temperature between 0° and 5° C. for 30 minutes, and then at room temperature for a further 20 hours. At the end of this time, 200 ml of water were added to the reaction mixture, which was then washed with 300 ml of ethyl acetate. The aqueous layer was separated and it was then neutralised by the addition of 50 g of citric acid. The mixture was extracted twice, each time with 300 ml of ethyl acetate, and the extract was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was crystallized by the addition of diisopropyl ether to give 41.20 g (88.3%) of (4R)-3-t-butoxycarbonylthiazolidine-4-carboxylic acid in the form of colorless needles melting at 133°-134° C.

reactant | triethylamine | 0.20 mole, 20.22 g | C(C)N(CC)CC | C6H15N
reactant | (4R)-thiazolidine-4-carboxylic acid | 0.20 mole, 26.62 g | S1CN[C@@H](C1)C(=O)O | C4H7NO2S
reactant | water | O | H2O
reactant | di-t-butoxy dicarbonate | 0.22 mole, 48.00 g | C(=O)(OOC(C)(C)C)OC(=O)OOC(C)(C)C | C10H18O7
reactant | water | 200 ml | O | H2O
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | (4R)-3-t-butoxycarbonylthiazolidine-4-carboxylic acid | 41.20 g, 88.3% | C(C)(C)(C)OC(=O)N1CSC[C@H]1C(=O)O | C9H15NO4S
